US08084485B2
To a solution of (R)-2-(benzyloxymethyl)-3-methylbutan-1-ol (54 g, 0.26 mol) in dry CH2Cl2 (2 L) at 0° C., Ph3P (88 g, 0.31 mol) and NBS (55.5 g, 0.31 mol) were added in portions. After stirring for 18 h at rt, the mixture was evaporated and the residue was purified by flash chromatography on silica gel to give (S)-((2-(bromomethyl)-3-methylbutoxy)methyl)benzene (43 g, 61%). 1H NMR (400 MHz, CDCl3): 0.94 (m, 6H), 1.71 (m, 1H), 1.85 (m, 1H), 3.48 (m, 1H), 3.57 (m, 1H), 3.62 (m, 1H), 3.68 (m, 1H), 4.52 (s, 2H), 7.31 (m, 5H)

reactant | (R)-2-(benzyloxymethyl)-3-methylbutan-1-ol | 0.26 mol, 54 g | C(C1=CC=CC=C1)OC[C@@H](CO)C(C)C | C13H20O2
reactant | Ph3P | 0.31 mol, 88 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NBS | 0.31 mol, 55.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
product | (S)-((2-(bromomethyl)-3-methylbutoxy)methyl)benzene | 43 g, 61% | BrC[C@H](COCC1=CC=CC=C1)C(C)C | C13H19BrO
